US05210247
In the same manner as described in Example 1, a Grignard solution in a mixture containing 450 ml of toluene and 40 ml of tetrahydrofuran was prepared from 58.8 g (0.4 Mol) of 1,4-dichlorobenzene. A solution of 146.4 g (0.6 Mol) of commercially available 1,6-dibromobenzene in 100 ml of toluene and a catalytic amount of dilithium tetrachlorocuprate were added to this solution. The full mixture was refluxed for 7 hours. The precipitate was then filtered off, the filtrate was acidified, and the phases were separated. The organic phase was washed, dried and evaporated, and the residue was fractionated. About 50 g of 1-(6-bromohexyl)-4chlorobenzene (45 percent yield) were obtained at a pressure of 0.2 hPa and at 106° to 109° C.

reactant | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
reactant | 1,4-dichlorobenzene | 0.4 Mol, 58.8 g | ClC1=CC=C(C=C1)Cl | C6H4Cl2
reactant | 1,6-dibromobenzene | BrC1=CC=CC=C1Br | C6H4Br2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | dilithium tetrachlorocuprate | [Li+].[Li+].[Cl-].[Cl-].[Cl-].[Cl-].[Cu+2]
solvent | toluene | 450 ml | C1(=CC=CC=C1)C | C7H8
product | 1-(6-bromohexyl)-4chlorobenzene | 50 g, 45 percent yield | BrCCCCCCC1=CC=C(C=C1)Cl | C12H16BrCl
